US05214191
A solution of methyl 2,2-dimethyl-3-hydroxypropionate (25.0 g, 0.189 mol) in 100 mL of MeOH was treated with a solution of KOH (11.7 g, 0.208 mol) in 50 mL of H2O and the resulting mixture stirred at room temperature for 5 hours. The reaction mixture was heated under reflux for 30 minutes, methanol was distilled and the remaining solution shell frozen and lyophilized to give 26.7 g (90.6%) of potassium 2,2-dimethyl-3-hydroxypropionate as a white solid. The potassium salt (13.0 g, 0.083 mol) was suspended in 100 mL of dry DMF and chloromethylenebenzylether (14.3 g, 0.092 mol) was added. After stirring 48 hours at room temperature the mixture was quenched with 100 mL of H2O and extracted with Et2O (200 mL). The ether layer was separated, washed with H2O (3×100 mL), saturated NaCl (100 mL) and dried over MgSO4. Evaporation and distillation of the residue gave 13.6 g (73%) of benzyloxymethyl 2,2-dimethyl-3-hydroxypropionate as a clear liquid.

reactant | methyl 2,2-dimethyl-3-hydroxypropionate | 0.189 mol, 25.0 g | CC(C(=O)OC)(CO)C | C6H12O3
reactant | KOH | 0.208 mol, 11.7 g | [OH-].[K+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | H2O | 50 mL | O | H2O
product | potassium 2,2-dimethyl-3-hydroxypropionate | 26.7 g, 90.6% | CC(C(=O)[O-])(CO)C.[K+] | InChI=1S/C5H10O3.K/c1-5(2,3-6)4(7)8;/h6H,3H2,1-2H3,(H,7,8);/q;+1/p-1
